US08420052B2
Preparation of 2-hydroxy-6-methoxy-3-nitropyridine:
To a cooled suspension of Na t-OBu (6.24 g, 64.9 mmol) in liquid ammonia was added dropwise a solution of 6-methoxy-3-nitropyridine (2.0 g, 12.98 mmol) and t-butyl hydrogenperoxide (1.53 mL, 14.31 mmol) in THF (20 mL). After the completion of addition, the resulting mixture was stirred at −78° C. under Ar and warmed gradually to room temperature, and then stirred at room temperature overnight, which gave a yellow solid. It was diluted with H2O (30 mL). The resulting mixture was neutralized with the addition of 1N HCl solution. The solid formed was collected and washed with H2O and DCM, and then dried (1.18 g). The filtrate was extracted with DCM (2×20 mL). The combined organic layers were dried (MgSO4), filtered and concentrated to give the second portion (0.59 g, total 1.77 g, 80%). NMR (MeOD-d3, 400 MHz) □ 8.20 (d, J=8.8 Hz, 1H), 5.79 (d, J=8.8 Hz, 1H), 4.87 (s, 3H). MS: m/z=171 (M+H+).

reactant | ammonia | N | H3N
reactant | 6-methoxy-3-nitropyridine | 12.98 mmol, 2.0 g | COC1=CC=C(C=N1)[N+](=O)[O-] | C6H6N2O3
reactant | t-butyl hydrogenperoxide | 14.31 mmol, 1.53 mL | C(C)(C)(C)OO | C4H10O2
reactant | HCl | 1N | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | H2O | 30 mL | O | H2O
product | 2-hydroxy-6-methoxy-3-nitropyridine | OC1=NC(=CC=C1[N+](=O)[O-])OC | C6H6N2O4
